US07968538B2
N-(1-(3-Chlorophenyl)ethyl)-5-fluoro-2-nitrobenzenamine
1-(3-Chlorophenyl)ethanamine (553 mg, 3.55 mmol), 2,4-difluoronitrobenzene (565 mg, 3.55 mmol) and N,N-diisopropylethylamine (918 mg, 7.10 mmol) were stirred at room temperature in dry acetonitrile (20 mL) for 6 h. The solvent was evaporated and the residue was dissolved in dichloromethane and washed with water. The dichloromethane was evaporated to collect the title compound (600 mg, 57% yield). 1H NMR (400 MHz, CDCl3): δ 8.49 (s, 1H), 8.23 (m, 1H), 7.04 (m, 4H), 6.36 (t, 1H), 6.22 (d, 1H), 4.56 (m, 1H), 1.64 (d, 3H); MS (ESI) m/z: Calculated for C14H13ClFN2O2: 295.06; Observed: 295.0 (M++1).

reactant | 1-(3-Chlorophenyl)ethanamine | 3.55 mmol, 553 mg | ClC=1C=C(C=CC1)C(C)N | C8H10ClN
reactant | 2,4-difluoronitrobenzene | 3.55 mmol, 565 mg | FC1=C(C=CC(=C1)F)[N+](=O)[O-] | C6H3F2NO2
reactant | N,N-diisopropylethylamine | 7.10 mmol, 918 mg | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | N-(1-(3-Chlorophenyl)ethyl)-5-fluoro-2-nitrobenzenamine | 600 mg, 57% yield | ClC=1C=C(C=CC1)C(C)NC1=C(C=CC(=C1)F)[N+](=O)[O-] | C14H12ClFN2O2
